US06372457B1
For a calorimetric assay, 1 mL reactions were prepared containing 45 mM KH2PO4/K2HPO4, 20 mM fructose-6-phosphate, 15 mM L-glutamine, 2.5 mM EDTA, pH 7.5, and cell extract. The reactions were incubated at 37° C. for 20 minutes and stopped by boiling for 4 minutes. The resulting precipitate was removed by centrifugation and the supernatant was assayed for glucosamine-6-phosphate by a modification of the method of Elson and Morgan (1933, Biochem. J. 27:1824-1828) essentially as described by Zalkin (1985, Meth. Enzymol. 113:278-281), both publications of which are incorporated herein by reference in their entireties. To 100 μL of the above supernatant was added 12.5 μL of saturated NaHCO3 and 12.5 μL of cold, freshly prepared 5% aqueous acetic anhydride. After incubating for 3 minutes at room temperature, the mixture was boiled for 3 minutes to drive off excess acetic anhydride. After cooling to room temperature, 150 μL of 0.8 M potassium borate, pH 9.2 (0.8 M H3BO3 adjusted to pH 9.2 with KOH) was added and the mixture was boiled for 3 minutes. After cooling to room temperature, 1.25 mL Ehrlich's reagent (1% p-dimethylaminobenzaldehyde in glacial acetic acid containing 0.125 N HCl) was added to each tube. After incubating at 37° C. for 30 minutes, the absorbance at 585 nm was measured and the amount of glucosamine-6-phosphate formed was determined using a standard curve. In the absence of the substrate, fructose-6-phosphate, or when boiled extract was used in the assay, no significant absorbance at 585 nm was observed.

reactant | KH2PO4 K2HPO4 | 45 mM | OP(=O)(O)[O-].[K+].OP(=O)([O-])[O-].[K+].[K+]
reactant | fructose-6-phosphate | 20 mM | P(=O)(O)(O)OC[C@H]([C@H]([C@@H](C(CO)=O)O)O)O | C6H13O9P
reactant | L-glutamine | 15 mM | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | EDTA | 2.5 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
product | glucosamine-6-phosphate | P(=O)(O)(O)OC[C@@H]1[C@H]([C@@H]([C@H](C(O)O1)N)O)O | C6H14NO8P
